data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OC)C2C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OC)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OC)CC1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OC)CC1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)cc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)cc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1", "products": "O=C1CCN2C[C@H](OCc3ccc(F)cc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(C)COC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OCC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OCC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OCC2(C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OCC2(C)O3)cc1", "products": "CC12COC(Cl)(O1)C1C(=O)C12"}, {"reactants": "CC12COC(Cl)(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C1C1(Cl)OCC2(C)O1"}, {"reactants": "COC1([O-])C2C1C1(Cl)OCC2(C)O1.CO", "products": "COC(=O)C1CC2(C)COC1(Cl)O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(F)c1.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(F)c1"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(F)c1", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(F)c1.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(F)c1", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(F)c1"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(F)c1", "products": "CC1=C(c2ccc(C)cc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)cc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(F)c1"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(F)c1", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(F)c1"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(F)c1", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(F)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "CCc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "CCc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(CC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(CC)cc1", "products": "CCc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(OC)ccc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1C)C(C)C", "products": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
